US06692797B1
50 ml of saturated ethanolic ammonia solution is added dropwise to a solution of 12.2 g of 2-oxo-2H-1-benzopyran-7-yl 4-methoxycarbonyloxybenzoate in 200 ml of ethanol. The reaction mixture is stirred for two hours, evaporated down and taken up in 100 ml diethyl ether. This solution is washed with water, dried, filtered to remove inorganic material and the filtrate evaporated down. The residue is purified by column chromatography on silica gel using hexane/ethyl acetate (1/1 v/v) as eluent and recrystallisation from acetonitrile to yield 9.5 g of 2-oxo-2H-1-benzopyran-7-yl 4-hydroxybenzoate.

reactant | ammonia | 50 ml | N | H3N
reactant | 2-oxo-2H-1-benzopyran-7-yl 4-methoxycarbonyloxybenzoate | 12.2 g | COC(=O)OC1=CC=C(C(=O)OC2=CC3=C(C=CC(O3)=O)C=C2)C=C1 | C18H12O7
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-oxo-2H-1-benzopyran-7-yl 4-hydroxybenzoate | 9.5 g | OC1=CC=C(C(=O)OC2=CC3=C(C=CC(O3)=O)C=C2)C=C1 | C16H10O5
